US07741347B2
A THF (75 mL) solution of benzyl 2-phenyl-2-(tosyloxy)acetate (6.0 g, 15.1 mmol), 1-methylpiperazine (3.36 mL, 30.3 mmol) and N,N-diisopropylethylamine (13.2 mL, 75.8 mmol) was heated at 65° C. for 7 hours. The reaction was allowed to cool to ambient temperature and the volatile component was removed in vacuo. The residue was partitioned between ethylacetate and water, and the organic layer was washed with water and brine, dried (MgSO4), filtered, and concentrated in vacuo. The resulting crude material was purified by flash chromatography (silica gel, ethyl acetate) to provide benzyl 2-(4-methylpiperazin-1-yl)-2-phenylacetate as an orangish-brown viscous oil (4.56 g). Chiral HPLC analysis (Chiralcel OD-H) indicated that the sample is a mixture of enantiomers in a 38.2 to 58.7 ratio. The separation of the enantiomers were effected as follow: the product was dissolved in 120 mL of ethanol/heptane (1:1) and injected (5 mL/injection) on chiral HPLC column (Chiracel OJ, 5 cm ID×50 cm L, 20 μm) eluting with 85:15 Heptane/ethanol at 75 mL/min, and monitored at 220 nm. Enantiomer-1 (1.474 g) and enantiomer-2 (2.2149 g) were retrieved as viscous oil. 1H NMR (CDCl3, δ=7.26, 500 MHz) 7.44-7.40 (m, 2H), 7.33-7.24 (m, 6H), 7.21-7.16 (m, 2H), 5.13 (d, J=12.5, 1H), 5.08 (d, J=12.5, 1H), 4.02 (s, 1H), 2.65-2.38 (app br s, 8H), 2.25 (s, 3H). RT=2.10 (Cond. III); >98% homogeneity index; LC/MS: Anal. Calcd. for [M+H]+ C20H25N2O2: 325.19. found 325.20.

reactant | benzyl 2-phenyl-2-(tosyloxy)acetate | 15.1 mmol, 6.0 g | C1(=CC=CC=C1)C(C(=O)OCC1=CC=CC=C1)OS(=O)(=O)C1=CC=C(C)C=C1 | C22H20O5S
reactant | 1-methylpiperazine | 30.3 mmol, 3.36 mL | CN1CCNCC1 | C5H12N2
reactant | N,N-diisopropylethylamine | 75.8 mmol, 13.2 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | THF | 75 mL | C1CCOC1 | C4H8O
product | benzyl 2-(4-methylpiperazin-1-yl)-2-phenylacetate | 4.56 g | CN1CCN(CC1)C(C(=O)OCC1=CC=CC=C1)C1=CC=CC=C1 | C20H24N2O2
